US06136781
The crude cyclo(-Phg-D-Arg(Tos)-Phe-D-Ala-Trp-) (100 mg) as obtained in Example 48 was treated with HF in the presence of p-cresol (75 mg) and ethanedithiol (50 ml) for 2 hours while cooling with ice. After HF was removed by distillation, ether was added to the residue and the precipitate formed was collected by filtration. This was purified by gel chromatography (G-25; 2 cm×80 cm). Finally, 20 g of the product was further purified by HPLC using a column for partitioning purification of D-ODS-5-ST (2 cm×15 cm; produced by YMC Co.) to obtain cyclo(-Phg-D-Arg-Phe-D-Ala-Trp-).

reactant | cyclo(-Phg-D-Arg(Tos)-Phe-D-Ala-Trp-) | 100 mg | N1[C@@H](C2=CC=CC=C2)C(=O)N[C@H](CCCNC(NS(=O)(=O)C2=CC=C(C)C=C2)=N)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@H](C)C(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C1=O | C44H49N9O7S
reactant | p-cresol | 75 mg | C1=CC(=CC=C1O)C | C7H8O
solvent | ethanedithiol | 50 ml | C(C)(S)S | C2H6S2
product | cyclo(-Phg-D-Arg-Phe-D-Ala-Trp-) | N1[C@@H](C2=CC=CC=C2)C(=O)N[C@H](CCCNC(N)=N)C(=O)N[C@@H](CC2=CC=CC=C2)C(=O)N[C@H](C)C(=O)N[C@@H](CC2=CNC3=CC=CC=C23)C1=O | C37H43N9O5
